US04065456
16 g of 5-hydroxyisocarbostyril was dissolved in 110 ml of a 1N aqueous sodium hydroxide solution, and 8 g of glycidol was added to the solution. The mixture was then refluxed for 2 hours while stirring. After allowing the mixture to cool, the precipitated crystals were filtered, and recrystallized from water to give 20 g of 5-(2,3-dihydroxy)propoxyisocarbostyril as colorless needle-like crystals having a melting point of 228° - 230° C.

reactant | 5-hydroxyisocarbostyril | 16 g | OC1=C2C=CNC(=O)C2=CC=C1 | C9H7NO2
reactant | glycidol | 8 g | C1C(O1)CO | C3H6O2
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 5-(2,3-dihydroxy)propoxyisocarbostyril | 20 g | OC(COC1=C2C=CNC(=O)C2=CC=C1)CO | C12H13NO4
